US07745438B2
[(1R,2S,3S)-2-benzyloxy-3-dibenzylamino-4-(3,5-difluorophenyl)-1-hydroxymethyl-butyl]-((R)-3-cyclohexyloxy-2-hydroxypropyl)-carbamic acid tert-butyl ester
Dissolve (2R,3R,4S)-3-benzyloxy-2-((R)-3-cyclohexyloxy-2-hydroxypropylamino)-4-dibenzylamino-5-(3,5-difluorophenyl)-pentan-1-ol (1.140 g, 1.694 mmol) in tetrahydrofuran (8.5 mL) followed by the addition of di-tert-butyl dicarbonate (0.406 g, 1.864 mmol) and diisopropylethylamine (0.589 mL, 3.389 mmol). Heat to 50° C. for 2.5 days, quench with water (60 mL), extract with ethyl acetate, dry (magnesium sulfate) and purify (silica gel chromatography, eluting with 20:80 to 40:60 ethylacetate:hexanes) to give the desired compound (0.948 g, 72.4%).

reactant | (2R,3R,4S)-3-benzyloxy-2-((R)-3-cyclohexyloxy-2-hydroxypropylamino)-4-dibenzylamino-5-(3,5-difluorophenyl)-pentan-1-ol | 1.694 mmol, 1.140 g | C(C1=CC=CC=C1)O[C@H]([C@@H](CO)NC[C@H](COC1CCCCC1)O)[C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C41H50F2N2O4
reactant | di-tert-butyl dicarbonate | 1.864 mmol, 0.406 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | diisopropylethylamine | 3.389 mmol, 0.589 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 8.5 mL | O1CCCC1 | C4H8O
product | [(1R,2S,3S)-2-benzyloxy-3-dibenzylamino-4-(3,5-difluorophenyl)-1-hydroxymethyl-butyl]-((R)-3-cyclohexyloxy-2-hydroxypropyl)-carbamic acid tert-butyl ester | 0.948 g, 72.4% | C(C)(C)(C)OC(N(C[C@H](COC1CCCCC1)O)[C@@H]([C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)CO)=O | C46H58F2N2O6
